US03994890
By the procedure similar to that described in Example 1, 3-phenylindazole (3.88 g) and dimethylaminopropyl chloride hydrochloride (4.74 g) to obtain 3.5 g of 1-dimethylaminopropyl-3-phenylindazole hydrochloride (m.p. 140°-143° C).

reactant | 3-phenylindazole | 3.88 g | C1(=CC=CC=C1)C1=NNC2=CC=CC=C12 | C13H10N2
reactant | dimethylaminopropyl chloride hydrochloride | 4.74 g | Cl.CN(C)CCCCl
product | 1-dimethylaminopropyl-3-phenylindazole hydrochloride | 3.5 g | Cl.CN(C(CC)C1=C2C(=NNC2=CC=C1)C1=CC=CC=C1)C | InChI=1S/C18H21N3.ClH/c1-4-16(21(2)3)14-11-8-12-15-17(14)18(20-19-15)13-9-6-5-7-10-13;/h5-12,16H,4H2,1-3H3,(H,19,20);1H
